US08076345B2
2-{4-[(5-Cyclopropyl-pyridin-2-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (150 mg, 0.53 mmol) and (5-cyclopropylpyridin-2-yl)methanamine (115 mg, 0.78 mmol) in acetonitrile (2 mL) and N,N-diisopropylethylamine (0.14 mL, 0.78 mmol) was subjected to microwave irradiation at 180° C. for 2 h. The mixture was concentrated and the residue was purified by preparative HPLC (100×20.2 mm, C18 column; 50-70% CH3CN-water [10 mM Et2NH]) to yield an off-white foam.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 0.53 mmol, 150 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | (5-cyclopropylpyridin-2-yl)methanamine | 0.78 mmol, 115 mg | C1(CC1)C=1C=CC(=NC1)CN | C9H12N2
reactant | N,N-diisopropylethylamine | 0.78 mmol, 0.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 2-{4-[(5-Cyclopropyl-pyridin-2-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-5-methyl-benzonitrile | C1(CC1)C=1C=CC(=NC1)CNC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C24H24N6
